US04780477
A suspension of 137 mg of 1-(2-diisopropylaminoethyl)isatin and 120 mg of 4-benzylsemicarbazide hydrochloride in 2 ml of a mixture of ethanol and water (2:1) was stirred for 11 hours at room temperature, and an aqueous sodium bicarbonate solution was added to the reaction mixture. The precipitates were collected by filtration, washed with water and recrystallized from aqueous ethanol to obtain 147 mg of (E)-1-(2-diisopropylaminoethyl)isatin 3-(4-benzylsemicarbazone). Chemical properties of the product were identical with those of the product obtained by Example 5.

reactant | 1-(2-diisopropylaminoethyl)isatin | 137 mg | C(C)(C)N(CCN1C(=O)C(=O)C2=CC=CC=C12)C(C)C | C16H22N2O2
reactant | 4-benzylsemicarbazide hydrochloride | 120 mg | Cl.C(C1=CC=CC=C1)NC(NN)=O
reactant | ethanol | C(C)O | C2H6O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
product | (E)-1-(2-diisopropylaminoethyl)isatin 3-(4-benzylsemicarbazone) | 147 mg | C(C1=CC=CC=C1)NC(N\N=C/1\C(N(C2=CC=CC=C12)CCN(C(C)C)C(C)C)=O)=O | C24H31N5O2
